US05747535
Synthesis of N-t-butoxycarbonyl-N-methylaminoacetic acid methyl ester
Glycine methyl ester hydrochloride(1.0 g, 8.2 mmole) was dissolved in water(12 ml) and 1N aqueous sodium hydroxide solution (8.2 ml), and then 1,4-dioxane(20 ml) was added thereto. To this mixture was added di-t-butyldicarbonate(2.2 g, 9.8 mmole) at 0° C., and the mixture was warmed to room temperature and stirred for 2 hours. The volatile substance was removed from the reaction mixture under reduced pressure and the residue was diluted with ethyl acetate, washed successively with aqueous saturated sodium hydrogen carbonate solution, dilute hydrochloric acid and saturated saline, dried over anhydrous sodium sulfate, filtered and then concentrated. The resulting product was dissolved in dimethylformamide(DMF, 10 ml). To this solution was slowly added 60% sodium hydride(NaH, 0.25 g, 6.4 mmole) at 0° C. and then added dropwise iodomethane(CH3, 1.1 ml). The mixture was slowly warmed to room temperature and stirred for 3 hours at the same temperature. The mixture was filtered through a Celite bed and concentrated under reduced pressure. The residue was diluted with ethyl acetate, washed successively with aqueous saturated sodium hydrogen carbonate solution, dilute hydrochloric acid and brine, dried over anhydrous sodium sulfate, filtered and then concentrated. The residue was purified by column chromatography using ethyl acetate/hexane (6/4, by volume) as an eluent to obtain the purified title compound(1.0 g, Yield: 65%).

reactant | Glycine methyl ester hydrochloride | 8.2 mmole, 1.0 g | Cl.COC(CN)=O
reactant | di-t-butyldicarbonate | 9.8 mmole, 2.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydride | 6.4 mmole, 0.25 g | [H-].[Na+]
reactant | iodomethane | 1.1 ml | IC | CH3I
solvent | water | 12 ml | O | H2O
solvent | sodium hydroxide | 1N, 8.2 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | N-t-butoxycarbonyl-N-methylaminoacetic acid methyl ester | 1.0 g, Yield: 65% | COC(CN(C)C(=O)OC(C)(C)C)=O | C9H17NO4
